US07122545B2
To a suspension of 1.0 g of imidazole-2-carboxylic acid (8.9 mmol) in 15 ml DMF was added 1.6 g of CDI (9.8 mmol) and stirred at ambient temperature for 1 h. Then the mixture was refluxed for 30 min. After cooling to ambient temperature, 2.0 g of 2-methoxy-5-morpholin-4-yl-phenylamine (9.8 mmol) were added and the reaction mixture was heated to reflux for 16 h. The mixture was evaporated and the residue taken up in water (40 ml) and extracted 3 times with ethyl acetate. The combined organic phases were dried on sodium carbonate, evaporated and the residue subjected to column chromatography (silica gel, ethyl acetate/hexanes 2:1). 0.25 g 1H-imidazole-2-carboxylic acid (2-methoxy-5-morpholin-4-yl-phenyl)-amide (9%) were obtained as a white solid; M.p.: 227–230° C. 0.2 g of 1H-Imidazole-2-carboxylic acid (2-methoxy-5-morpholin-4-yl-phenyl)-amide (0.66 mmol) were taken up in toluene (8.0 ml) and treated with 0.8 g of Lawesson reagent (2.0 mmol). The reaction mixture was heated to reflux for 22 h. After cooling to ambient temperature, water (25 ml) was added and the mixture was extracted 3 times with ethyl acetate. The combined organic phases were dried on sodium carbonate, evaporated and the residue subjected to column chromatography (silica gel, ethyl acetate/hexanes 1:1). 0.125 g of 1H-imidazole-2-carbothioic acid (2-methoxy-5-morpholin-4-yl-phenyl)-amide (59%) was obtained as a yellow foam; MS (ISP): m/e=319 (M+H+).

reactant | 1H-Imidazole-2-carboxylic acid (2-methoxy-5-morpholin-4-yl-phenyl)-amide | 0.66 mmol, 0.2 g | COC1=C(C=C(C=C1)N1CCOCC1)NC(=O)C=1NC=CN1 | C15H18N4O3
reactant | Lawesson reagent | 2.0 mmol, 0.8 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | water | 25 ml | O | H2O
solvent | toluene | 8.0 ml | C1(=CC=CC=C1)C | C7H8
product | 1H-imidazole-2-carbothioic acid (2-methoxy-5-morpholin-4-yl-phenyl)-amide | 0.125 g, 59% | COC1=C(C=C(C=C1)N1CCOCC1)NC(=S)C=1NC=CN1 | C15H18N4O2S
